US04977165
2) Preparation of 2-(6-methyl-2-pyridyl)ethylamine
28.5 ml (29.4 g, 586 mmol) of hydrazine monohydrate was added to a solution of 39.0 g (147 mmol) of N-[2-(6-methyl-2-pyridyl)ethyl]phthalimide obtained in the above step (1) in 300 ml of ethanol and the mixture was stirred at room temperature for 1.5 h. The mixture was poured into 300 ml of a saturated aqueous sodium carbonate solution. After extraction with chloroform, the organic layer was concentrated and the oily residue thus obtained was purified by distillation (75° to 80° C./0.01 mmHg). 12.6 g (yield: 63%) of the intended compound was obtained as a colorless oil.

reactant | hydrazine monohydrate | 586 mmol, 28.5 ml, 29.4 g | O.NN
reactant | N-[2-(6-methyl-2-pyridyl)ethyl]phthalimide | 147 mmol, 39.0 g | CC1=CC=CC(=N1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C16H14N2O2
reactant | sodium carbonate | 300 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(6-methyl-2-pyridyl)ethylamine | 12.6 g, yield: 63% | CC1=CC=CC(=N1)CCN | C8H12N2
